US08138333B2
1-(Phenylsulfonyl)-1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline
SMe2 (205 μL, 2.2 mmol) was added dropwise over 5 min. to a refluxing mixture of 1-(phenylsulfonyl)-3,4-dihydropyrrolo[4,3,2-de]isoquinolin-5(1H)-one, Intermediate 2, (225 mg, 0.72 mmol) in dry THF (10 mL) with continuous reflux for 2.5 h. Additional two portions BH3:SMe2 (100 μL×2) were added (2.5 h reflux between the additions). Reflux was continued for 5 h after the last addition, then room temperature over night. The reaction was quenched by addition of HCl in MeOH (1.25 M, 4 mL) and reflux 1 h. The solvent was evaporated and the crude mixture was extracted with DCM (×2) and sat. Na2CO3(aq). The organic layers were combined, dried and concentrated. Purification was performed by flash column chromatography (3-5% MeOH in DCM) which gave 66 mg of the title compound as a beige solid. MS m/z 299 [M+H]+.

reactant | SMe2 | 2.2 mmol, 205 μL | S(C)C | C2H6S
reactant | 1-(phenylsulfonyl)-3,4-dihydropyrrolo[4,3,2-de]isoquinolin-5(1H)-one | C1(=CC=CC=C1)S(=O)(=O)N1C=C2CNC(C=3C=CC=C1C23)=O | C16H12N2O3S
reactant | SMe2 | 100 μL | S(C)C | C2H6S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(Phenylsulfonyl)-1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline | 66 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C2CNCC=3C=CC=C1C23 | C16H14N2O2S
